US06921821B2
4-(Piperdin-4-ylamino)-6-trifluoromethyl-chromen-2-one was prepared according to the procedure described in Example 76, except that crude 4-chloro-6-trifluoromethyl-chromen-2-one (423 mg, 1.7 mmol) and 4-amino-1-N-Boc-piperidine (359 mg, 1.79 mmol) were used in place of 4,6,7-trichlorochromen-2-one and 1-benzo[1,3]dioxol-5-yl-piperdin-4-ylamine, to give a white solid (521 mg). Removal of the BOC protecting group provided the free base as a white solid (272 mg, 69%). MS (APCI) m/z 313 [M+H]+, 311 [M−H]+; 1H NMR (300 MHz, DMSO-D6) δ ppm 1.81 (m, 2H) 2.10 (m, 2H) 3.03 (m, J=2.37 Hz, 2H) 3.39 (m, 2H) 3.84 (m, 1H) 5.50 (s, 1H) 7.52 (d, J=8.48 Hz, 1H) 7.68 (d, J=7.80 Hz, 1H) 7.95 (d, J=8.82 Hz, 1H) 8.66 (s, 1H) 8.72 (s, 2H).

reactant | 4-chloro-6-trifluoromethyl-chromen-2-one | 1.7 mmol, 423 mg | ClC1=CC(OC2=CC=C(C=C12)C(F)(F)F)=O | C10H4ClF3O2
reactant | 4-amino-1-N-Boc-piperidine | 1.79 mmol, 359 mg | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4,6,7-trichlorochromen-2-one | ClC1=CC(OC2=CC(=C(C=C12)Cl)Cl)=O | C9H3Cl3O2
reactant | 1-benzo[1,3]dioxol-5-yl-piperdin-4-ylamine | O1COC2=C1C=CC(=C2)N2CCC(CC2)N | C12H16N2O2
product | 4-(Piperdin-4-ylamino)-6-trifluoromethyl-chromen-2-one | N1CCC(CC1)NC1=CC(OC2=CC=C(C=C12)C(F)(F)F)=O | C15H15F3N2O2
